US08242130B2
To a stirred solution of 2-methoxynicotinic acid (2.3 g, 15 mmol) in 75 mL anhydrous THF was added N-methyl morpholine (1.52 g, 15 mmol). The reaction mixture was cooled to −10° C. Ethylchloroformate (1.63 g, 15 mmol) was added dropwise at −10° C. The reaction mixture was stirred at −10° C. for 15 min. and then at rt for 10 h. Water (50 mL) was added, and the solution was extracted with ethyl acetate. The organic layer was separated, dried (Na2SO4), and concentrated to give a colorless liquid in 97% yield (3.29 g). To a solution of this colorless liquid (3.28 g, 14.57 mmol) and 4′-nitroacetophenone (2.477 g, 15 mmol) in anhydrous THF (75 mL) was added lithium bis(trimethylsilyl)amide 1.0M solution in THF (18 mL) at −30° C. over a period of 45 min. Stirring continued at −30° C. for 30 min. The reaction mixture was allowed to warm to rt. The stirring was continued for another 15 h at rt, and the reaction mixture was then diluted with ethyl acetate (200 mL). Saturated NH4Cl solution (50 mL) was added. The organic layer was separated and dried over anhydrous Na2SO4. Removal of solvent gave the crude product which was triturated with ether to give 1-(2-methoxy pyridine-3-yl)-3-(4-nitrophenyl)propane-1,3-dione as yellow solid in 62% yield (2.79 g).

reactant | 2-methoxynicotinic acid | 15 mmol, 2.3 g | COC1=C(C(=O)O)C=CC=N1 | C7H7NO3
reactant | N-methyl morpholine | 15 mmol, 1.52 g | CN1CCOCC1 | C5H11NO
reactant | Ethylchloroformate | 15 mmol, 1.63 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | 4′-nitroacetophenone | 15 mmol, 2.477 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C)=O | C8H7NO3
reactant | lithium bis(trimethylsilyl)amide | 1.0M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | Water | 50 mL | O | H2O
product | 1-(2-methoxy pyridine-3-yl)-3-(4-nitrophenyl)propane-1,3-dione | 62% yield | COC1=NC=CC=C1C(CC(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C15H12N2O5
